.title KiCad schematic
.include "C:/Users/alex/Documents/GitHub/Calculator/calculator/2N3904.lib"
Q10 Vo1 Net-_Q10-B_ GND 2N3904
Q9 Net-_Q8-E_ Net-_Q9-B_ GND 2N3904
R8 Vo1 /Vcc 47k
R12 Net-_Q6-C_ /Vcc 220k
Q7 Net-_Q10-B_ Net-_Q7-B_ Net-_Q6-C_ 2N3904
R11 Net-_Q8-B_ Net-_Q6-C_ 220k
Q8 Net-_Q10-B_ Net-_Q8-B_ Net-_Q8-E_ 2N3904
R14 Net-_Q8-E_ /Vcc 220k
R15 /Vcc Net-_Q10-B_ 220k
R13 Net-_Q7-B_ Net-_Q8-E_ 220k
R10 Vinc Net-_Q9-B_ 220k
Q6 Net-_Q6-C_ Net-_Q6-B_ GND 2N3904
R9 Net-_Q5-C_ Net-_Q6-B_ 220k
R24 Net-_Q16-C_ /Vcc 47k
Q15 Net-_Q14-E_ Net-_Q15-B_ GND 2N3904
Q16 Net-_Q16-C_ Net-_Q14-C_ GND 2N3904
Q14 Net-_Q14-C_ Net-_Q14-B_ Net-_Q14-E_ 2N3904
Q18 Net-_Q17-C_ Net-_Q18-B_ GND 2N3904
R27 Net-_Q17-C_ /Vcc 220k
Q19 Vo2 Net-_Q17-C_ GND 2N3904
R26 Net-_Q13-C_ Net-_Q18-B_ 220k
R25 Net-_Q16-C_ Net-_Q17-B_ 220k
Q17 Net-_Q17-C_ Net-_Q17-B_ GND 2N3904
R28 Vo2 /Vcc 47k
Q1 Net-_Q1-C_ Net-_Q1-B_ GND 2N3904
Q2 Net-_Q2-C_ Net-_Q2-B_ Net-_Q1-C_ 2N3904
Q5 Net-_Q5-C_ Net-_Q2-C_ GND 2N3904
R1 Vin1 Net-_Q1-B_ 220k
R3 Net-_Q3-B_ Net-_Q1-C_ 220k
R23 Net-_Q14-C_ /Vcc 220k
R21 Vinc Net-_Q14-B_ 220k
R22 Net-_Q5-C_ Net-_Q15-B_ 220k
R16 Net-_Q13-C_ /Vcc 47k
Q13 Net-_Q13-C_ Net-_Q11-C_ GND 2N3904
R17 Net-_Q2-C_ /Vcc 220k
R4 Net-_Q5-C_ /Vcc 47k
R6 Net-_Q2-B_ Net-_Q3-E_ 220k
R7 Net-_Q3-E_ /Vcc 220k
R5 Net-_Q1-C_ /Vcc 220k
R2 Vin2 Net-_Q4-B_ 220k
Q4 Net-_Q3-E_ Net-_Q4-B_ GND 2N3904
Q3 Net-_Q2-C_ Net-_Q3-B_ Net-_Q3-E_ 2N3904
Q11 Net-_Q11-C_ Net-_Q11-B_ Net-_Q11-E_ 2N3904
R20 Net-_Q11-C_ /Vcc 220k
R19 Vin2 Net-_Q11-B_ 220k
R18 Vin1 Net-_Q12-B_ 220k
Q12 Net-_Q11-E_ Net-_Q12-B_ GND 2N3904
Vin2 Vin2 GND DC 5 
Vin1 Vin1 GND DC 5 
Vcc1 /Vcc GND DC 5 
Vinc1 Vinc GND DC 0 

.control
alter vin1 0
alter vin2 0
op
print vin1 vin2 vo1 vo2 
alter vin1 0
alter vin2 1
op
print vin1 vin2 vo1 vo2 
alter vin1 1
alter vin2 0
op
print vin1 vin2 vo1 vo2 
alter vin1 1
alter vin2 1
op
print vin1 vin2 vo1 vo2 
quit
.endc
.end